2143-08-14 07:47:00 Physician Resident Progress Note
Chief Complaint: 31M with bipolar d/o and history of polysubstance
   abuse p/w fevers/hypotension after propofol injection.
   24 Hour Events:
 ULTRASOUND - At [**2143-8-13**] 11:00 AM
   RUQ-LIVER - c/w acute hepatitis.
 BLOOD CULTURED - At [**2143-8-13**] 02:00 PM
   X2 SETS
 FEVER - 102.0
F - [**2143-8-13**] 04:00 PM
   ID curbsided in am re abx regimen:  [**Year (4 digits) **], [**Last Name (un) 430**] (listeria/clostridia
   coverage)
   Increased pressor requirement
   Continued fevers
   Increased 02 requirement, IVF held
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-8-13**] 07:00 AM
   Ceftriaxone - [**2143-8-13**] 12:00 PM
   Vancomycin - [**2143-8-13**] 08:00 PM
   Meropenem - [**2143-8-14**] 06:02 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-8-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-14**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.4
C (101.1
   HR: 72 (72 - 106) bpm
   BP: 101/54(66) {81/39(52) - 125/79(88)} mmHg
   RR: 15 (7 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 17 (5 - 18)mmHg
   Mixed Venous O2% Sat: 79 - 80
   Total In:
                                                                 10,606 mL
                                                                    713 mL
   PO:
                                                                  1,660 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  3,446 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                  7,335 mL
                                                                    840 mL
   Urine:
                                                                  6,035 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,271 mL
                                                                   -127 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   GEN: awake, appropriate, NAD
   HEENT: NCAT, EOMI, PERRL, oropharynx clear without exudate, MM dry
   NECK: Supple, no LAD, no appreciable JVD
   CV: RRR, normal S1S2, no murmurs, rubs or gallops
   PULM: CTAB, no wheezes, diminished effort bilaterally
   ABD: Soft, mild epigastric tenderness, normoactive bowel sounds, liver
   edge palpable below costrophrenic angle, non-tender
   EXT: Warm and well perfused, full and symmetric distal pulses, no pedal
   edema, b/l knees appear normal, no erythema or swelling, no peripheral
   stigmata of endocarditis
   SKIN: no rashes, chronically sun exposed skin
   NEURO: AAOx3, responds appropriately to questions, CN 2-12 grossly
   intact, muscle strength 5/5 in all 4 ext., sensation intact to light
   touch.
   Labs / Radiology
   150 K/uL
   12.8 g/dL
   87 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   135 mEq/L
   33.7 %
   21.1 K/uL
        [image002.jpg]
                             [**2143-8-14**]  03:38 AM
   WBC
   21.1
   Hct
   33.7
   Plt
   150
   Cr
   0.9
   Glucose
   87
   Other labs: PT / PTT / INR:14.9/78.2/1.3, CK / CKMB / Troponin-T:138//,
   ALT / AST:269/203, Alk Phos / T Bili:57/0.5, Amylase / Lipase:38/,
   Differential-Neuts:93.0 %, Lymph:4.4 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.5 g/dL, LDH:350 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: Cortsol: 26.6
   Imaging: RUQ U/S: IMPRESSION:
   1. Findings consistent with acute hepatitis. No biliary dilatation.
   2. Small right pleural effusion.
   Microbiology: From [**Hospital3 1243**] from [**8-12**]: GPCs in at least 2 blood
   cx bottles, 1 bottle with GPB.
   Assessment and Plan
   31 y/o M with PMH of bipolar d/o and polysubstance abuse who presents
   with sepsis after intraveneous propfol injection.
   .
   # Sepsis: Patient presented with fever, hypotension unresponsive to IVF
   resuscitation, and tacycardia.  Lactate elevated to 2.7 and bandemia
   present on differential which both suggest acute infection.  At this
   point source of infection is unclear, however pt. gives history of
   self-injecting medication into leg veins which could be source.  ?
   whether propofol may have been contaminated giving him transient
   bacteremia.  Currently has oxygen requirement but no focal lung exam
   findings.  CSF unremarkable except for mildly elevated protein.  Blood
   and urine cultures pending.  Given h/o IVDU bacterial endocarditis
   should be considered, however no murmur on exam and time course too
   soon.  Hemodynamically stable on levophed.
   - Cont. prn IVF boluses to maintain UOP> 100cc/hour, CVP 8-12
   - Cont. levophed to maintain MAPs >65, attempt to wean as tolerated
   - Cont. broad-spectrum abx coverage with [**Last Name (LF) 898**], [**First Name3 (LF) 178**] change to
   ceftriaxone from Zosyn for GNR coverage
   - f/u culture data from OSH and here
   - CXR
   - consider TTE to r/o vegetation if positive blood cultures
   - check random cortisol level given h/o possible mineralocorticoid
   injection
   - repeat cultures if spikes
   .
   # Transaminitis: LFTs rapidly increased from OSH.  Most likely shock
   liver in setting of significant hypotension.  Must also consider
   baseline liver disease  and possible alcoholic hepatitis given h/o EtOH
   abuse.  No RUQ tenderness on exam but liver is enlarged.
   - cont. to trend LFTs
   - check Hep serologies and HIV given h/o IVDU
   - RUQ US
   .
   # Bipolar disorder: treated with prozac, lamictal, abilify and ritalin.
   - will check meds for possible liver toxicity and restart if ok
   - consider psych consult
   .
   # Polysubstance abuse: pt. has remote history of cocaine and heroin
   abuse.  Also has a h/o heavy EtOH use, had recent detox in late [**Month (only) 2605**].
   Per pts. wife his drinking is significantly less in the last 2 months.
   No h/o withdrawl seizures.
   - monitor for signs of EtOH withdrawl, last drink ~36 hours ago and
   ethanol level neg. at OSH
   - SW consult
   .
   # FEN: NPO for now, once stable can advance to regular PO diet
   .
   # PPX: heparin SC, hold on PPI if starts eating
   .
   # Dispo: ICU for now
   .
   # CODE: Full
   .
   # Comm: wife [**Name (NI) 943**] [**Name (NI) 4748**] [**Telephone/Fax (1) 4749**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-8-13**] 05:26 AM
   18 Gauge - [**2143-8-13**] 05:28 AM
   20 Gauge - [**2143-8-13**] 05:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-08-14 10:31:00 Physician Attending Progress Note
Chief Complaint:
   HPI: I saw and examined the patient, and was physically present with
   the ICU team for the key portions of the services provided. I agree
   with the note above, including the assessment and plan. I would
   emphasize and add the following points: 31 y/o M with PMH of
   polysubstance abuse and bipolar disorder who presents from OSH with
   sepsis after self injection with propofol that he obtained from a
   friend of his who works as a vet tech.
   24 Hour Events: [**Hospital3 **] Gram + cocci in 2 blood cx  and 1
   bottle gram + Rods
 ULTRASOUND - At [**2143-8-13**] 11:00 AM
   RUQ-LIVER
 BLOOD CULTURED - At [**2143-8-13**] 02:00 PM
   X2 SETS
 FEVER - 102.0
F - [**2143-8-13**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-8-13**] 07:00 AM
   Ceftriaxone - [**2143-8-13**] 12:00 PM
   Vancomycin - [**2143-8-13**] 08:00 PM
   Meropenem - [**2143-8-14**] 06:02 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-8-14**] 08:22 AM
   Other medications:
   Hep sc
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-14**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.7
C (98
   HR: 85 (72 - 106) bpm
   BP: 102/42(56) {81/39(52) - 123/79(88)} mmHg
   RR: 30 (7 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
   CVP: 17 (5 - 18)mmHg
   Mixed Venous O2% Sat: 79 - 80
   Total In:
                                                                 10,606 mL
                                                                  1,007 mL
   PO:
                                                                  1,660 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  3,446 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                  7,335 mL
                                                                  1,280 mL
   Urine:
                                                                  6,035 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,271 mL
                                                                   -273 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination: Gen NAD, HEENT: PERRL, EOMI, OP clear  Lungs: CTA
   bilaterally, CV: RRR s1s2 no m/r/g  Abd: +BS soft, NT, ND Ext: trace LE
   edema  Skin: CDI
   Labs / Radiology X-Ray Pending
   12.8 g/dL
   150 K/uL
   87 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   135 mEq/L
   33.7 %
   21.1 K/uL
        [image002.jpg]
                             [**2143-8-14**]  03:38 AM
   WBC
   21.1
   Hct
   33.7
   Plt
   150
   Cr
   0.9
   Glucose
   87
   Other labs: PT / PTT / INR:14.9/78.2/1.3, CK / CKMB / Troponin-T:138//,
   ALT / AST:269/203, Alk Phos / T Bili:57/0.5, Amylase / Lipase:38/,
   Differential-Neuts:93.0 %, Lymph:4.4 %, Mono:2.1 %, Eos:0.1 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.5 g/dL, LDH:350 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan 31 yo male hx polysubstance abuse s/p fever,
   hypotension s/p injection with  suspected infected propofol.
   1)Sepsis - bacteremia from injection, or possible propafol was
   contaminated. Currently on Levophed, CVP at goal, and we will try to
   lower pressor to goal MAP 60. - f/u outside culture data. Check
   SCVo2/lactate.
   -Continue Vanc/meropenem course to be determined pending cx results.
   Infectious Disease consulted
   2)LFT
s- stable, Hep serologies, HIV, serial exams.
   3) Anemia: ?dilutional, trend, check iron studies, guaic
   4)Bipolar disorder- Holding psych meds will consider restating when
   sepsis resolves
   5)Poly substance abuse-social work consult follow for signs of
   withdrawl
   6)FEN: continue diet
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2143-8-13**] 05:26 AM  Will need to be d
cd today.
   Consider PICC line today to  complete abx.
   18 Gauge - [**2143-8-13**] 05:28 AM
   20 Gauge - [**2143-8-13**] 05:29 AM
   Prophylaxis:
   DVT: SC heprin
   Communication:  with pt, wife and [**Name2 (NI) 4794**]
   Code status: Full code
   Disposition : ICU
   Total time spent: 50

2143-08-15 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2143-8-14**] 09:07 AM
   Second blood culture set, sent from right arm.
 MULTI LUMEN - START [**2143-8-14**] 05:40 PM
 MULTI LUMEN - STOP [**2143-8-14**] 09:00 PM
   Persistent small pressor requirement into late afternoon.  Old IJ
   removed, SC re-sited on right.
   BP stable overnight off pressors
   Wife brought in propofol bottle pt injected, growing GPB, GPC and GNR.
   ID consulted, recommend continuing current course abx
   CXR showed increasing right sided effusion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-8-13**] 07:00 AM
   Ceftriaxone - [**2143-8-13**] 12:00 PM
   Vancomycin - [**2143-8-14**] 08:00 PM
   Meropenem - [**2143-8-15**] 01:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-8-14**] 04:14 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   c/o ongoing HA, mild SOB. No pleuritic chest pain.
   Flowsheet Data as of  [**2143-8-15**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.9
C (100.3
   HR: 73 (69 - 86) bpm
   BP: 105/52(64) {80/39(38) - 132/72(86)} mmHg
   RR: 16 (8 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 9 (9 - 22)mmHg
   Total In:
                                                                  2,647 mL
                                                                    308 mL
   PO:
                                                                  1,080 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,567 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  3,120 mL
                                                                    410 mL
   Urine:
                                                                  3,120 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -473 mL
                                                                   -102 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   GEN: awake, appropriate, NAD
   HEENT: NCAT, EOMI, PERRL, oropharynx clear without exudate, MM dry
   NECK: Supple, no LAD, no appreciable JVD
   CV: RRR, normal S1S2, no murmurs, rubs or gallops
   PULM: CTAB, no wheezes, diminished effort bilaterally
   ABD: Soft, mild epigastric tenderness, normoactive bowel sounds, liver
   edge palpable below costrophrenic angle, non-tender
   EXT: Warm and well perfused, full and symmetric distal pulses, no pedal
   edema, b/l knees appear normal, no erythema or swelling, no peripheral
   stigmata of endocarditis
   SKIN: no rashes, chronically sun exposed skin
   NEURO: AAOx3, responds appropriately to questions, CN 2-12 grossly
   intact, muscle strength 5/5 in all 4 ext., sensation intact to light
   touch.
   Labs / Radiology
   125 K/uL
   11.8 g/dL
   99 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   8 mg/dL
   104 mEq/L
   134 mEq/L
   32.4 %
   14.6 K/uL
        [image002.jpg]
                             [**2143-8-14**]  03:38 AM
                             [**2143-8-15**]  03:27 AM
   WBC
   21.1
   14.6
   Hct
   33.7
   32.4
   Plt
   150
   125
   Cr
   0.9
   0.8
   Glucose
   87
   99
   Other labs: PT / PTT / INR:12.1/33.3/1.0, CK / CKMB / Troponin-T:138//,
   ALT / AST:170/97, Alk Phos / T Bili:61/0.4, Amylase / Lipase:38/,
   Differential-Neuts:92.1 %, Lymph:4.8 %, Mono:2.1 %, Eos:0.7 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.5 g/dL, LDH:256 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Propofol vial culture: 1+ GPCs, GPBs, GNRs
   Assessment and Plan
   31 y/o M with PMH of bipolar d/o and polysubstance abuse who presents
   with sepsis after intraveneous propfol injection.
   .
   # Sepsis: Likely source is propofol self injection from non-sterile
   vial.  Polymicrobial organisms in gram stain from OSH blood cultures.
   Cultures here negative to date.  Have curbsided ID, awaiting final
   recs.
   - Cont. prn IVF boluses to maintain UOP> 100cc/hour, CVP 8-12
   - Wean off pressors
   - Cont. broad-spectrum abx coverage with vanc, meropenem per ID
   curbside to cover for GNR, MRSA, Listeria, Clostridia
   - f/u culture data from OSH and here
   - CXR, repeat in am
   - consider TTE to r/o vegetation if persistently positive blood
   cultures
   - Random cortisol WNL
   - Wife to bring in propofol bottle for culture to further confirm
   source
   -re-site line
   # Transaminitis: LFTs rapidly increased from OSH.  Most likely shock
   liver in setting of significant hypotension.  Must also consider
   baseline liver disease  and possible alcoholic hepatitis given h/o EtOH
   abuse.  No RUQ tenderness on exam but liver is enlarged.
   - cont. to trend LFTs
   - check Hep serologies and HIV given h/o IVDU, pending
   # Bipolar disorder: treated with prozac, lamictal, abilify and ritalin.
   - Restart in am if stable overnight
   # Polysubstance abuse: pt. has remote history of cocaine and heroin
   abuse.  Also has a h/o heavy EtOH use, had recent detox in late [**Month (only) 2605**].
   Per pts. wife his drinking is significantly less in the last 2 months.
   No h/o withdrawl seizures.
   - monitor for signs of EtOH withdrawl, last drink ~36 hours PTA and
   ethanol level neg. at OSH
   - SW consult
   # FEN: ADAT
   # PPX: heparin SC
   # Dispo: ICU for now
   # CODE: Full
   # Comm: wife [**Name (NI) 943**] [**Name (NI) 4748**] [**Telephone/Fax (1) 4749**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-8-13**] 05:28 AM
   Multi Lumen - [**2143-8-14**] 05:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-08-15 09:37:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2143-8-14**] 09:07 AM
   Second blood culture set, sent from right arm.
 MULTI LUMEN - START [**2143-8-14**] 05:40 PM
 MULTI LUMEN - STOP [**2143-8-14**] 09:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-8-13**] 07:00 AM
   Ceftriaxone - [**2143-8-13**] 12:00 PM
   Meropenem - [**2143-8-15**] 01:00 AM
   Vancomycin - [**2143-8-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-8-15**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-15**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.6
   HR: 85 (61 - 86) bpm
   BP: 108/55(68) {80/39(38) - 132/72(86)} mmHg
   RR: 36 (8 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
   CVP: 23 (8 - 23)mmHg
   Total In:
                                                                  2,647 mL
                                                                    542 mL
   PO:
                                                                  1,080 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,567 mL
                                                                    392 mL
   Blood products:
   Total out:
                                                                  3,120 mL
                                                                  1,390 mL
   Urine:
                                                                  3,120 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -473 mL
                                                                   -848 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Chest: dullness to percussion at right base and bronchial BS right base
   Skin:  diffuse macpap rash
   Neurologic: non focal
   Labs / Radiology
   11.8 g/dL
   125 K/uL
   99 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   8 mg/dL
   104 mEq/L
   134 mEq/L
   32.4 %
   14.6 K/uL
        [image002.jpg]
                             [**2143-8-14**]  03:38 AM
                             [**2143-8-15**]  03:27 AM
   WBC
   21.1
   14.6
   Hct
   33.7
   32.4
   Plt
   150
   125
   Cr
   0.9
   0.8
   Glucose
   87
   99
   Other labs: PT / PTT / INR:12.1/33.3/1.0, CK / CKMB / Troponin-T:138//,
   ALT / AST:170/97, Alk Phos / T Bili:61/0.4, Amylase / Lipase:38/,
   Differential-Neuts:92.1 %, Lymph:4.8 %, Mono:2.1 %, Eos:0.7 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.5 g/dL, LDH:256 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   31 yr old with resolving sepsis after self injection with likely
   contamindated propfol
   1.       ID: follow up OSH blood cx and blood and propafol bottle cx
   here. Unclear if he needs GNR coverage, and with emerging rash may be
   able to d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]. Still with low grade fevers, + right effusion
   evolved after ++ IVF and one would have ot evoke thatit seeded after
   initial sepsis but would get fluid and send for gram stain in light of
   persistent fevers.
   2.       Hemodynamics: off pressors x 18 hrs
   With good UOP
   ICU Care
   Nutrition: reg diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-8-13**] 05:28 AM
   Multi Lumen - [**2143-8-14**] 05:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  with pt and wife
   [**Name (NI) 66**] status: Full code
   Disposition : Ok for floor

2143-08-15 09:42:00 Physician Attending Progress Note
Chief Complaint:
   HPI: saw and examined the patient, and was physically present with the
   ICU team for the key portions of the services provided. I agree with
   the note above, including the assessment and plan. I would emphasize
   and add the following points: 31 y/o M with PMH of polysubstance abuse
   and bipolar disorder who presents from OSH with sepsis after self
   injection with propofol that he obtained from a friend of his who works
   as a vet tech.
   24 Hour Events: s/p new SC line, no pressor requirement.  New pleural
   effusions.
 BLOOD CULTURED - At [**2143-8-14**] 09:07 AM
   Second blood culture set, sent from right arm.
 MULTI LUMEN - START [**2143-8-14**] 05:40 PM
 MULTI LUMEN - STOP [**2143-8-14**] 09:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2143-8-13**] 07:00 AM
   Ceftriaxone - [**2143-8-13**] 12:00 PM
   Meropenem - [**2143-8-15**] 01:00 AM
   Vancomycin - [**2143-8-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-8-15**] 08:00 AM
   Other medications:
   Hep sc
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-8-15**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.6
   HR: 85 (61 - 86) bpm
   BP: 108/55(68) {80/39(38) - 132/72(86)} mmHg
   RR: 36 (8 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
   CVP: 23 (8 - 23)mmHg
   Total In:
                                                                  2,647 mL
                                                                    542 mL
   PO:
                                                                  1,080 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,567 mL
                                                                    392 mL
   Blood products:
   Total out:
                                                                  3,120 mL
                                                                  1,390 mL
   Urine:
                                                                  3,120 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -473 mL
                                                                   -848 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Gen NAD, HEENT: PERRL, EOMI, OP clear  Lungs: decreased BS right base
   with bronchial BS, CV: RRR s1s2 no m/r/g  Abd: +BS soft, NT, ND Ext:
   trace LE edema  Skin: Diffuse papular erythematous rash.
   Labs / Radiology
   11.8 g/dL
   125 K/uL
   99 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   8 mg/dL
   104 mEq/L
   134 mEq/L
   32.4 %
   14.6 K/uL
        [image002.jpg]
                             [**2143-8-14**]  03:38 AM
                             [**2143-8-15**]  03:27 AM
   WBC
   21.1
   14.6
   Hct
   33.7
   32.4
   Plt
   150
   125
   Cr
   0.9
   0.8
   Glucose
   87
   99
   Other labs: PT / PTT / INR:12.1/33.3/1.0, CK / CKMB / Troponin-T:138//,
   ALT / AST:170/97, Alk Phos / T Bili:61/0.4, Amylase / Lipase:38/,
   Differential-Neuts:92.1 %, Lymph:4.8 %, Mono:2.1 %, Eos:0.7 %, Lactic
   Acid:1.5 mmol/L, Albumin:3.5 g/dL, LDH:256 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   No New Micro.
   Assessment and Plan 31 yo male hx polysubstance abuse s/p fever,
   hypotension s/p injection with  suspected infected propofol.
   1)Sepsis - bacteremia from injection, or possible propafol was
   contaminated.  New left sided pleural effusion will perform diagnostic
   thoracentesis - f/u outside culture data.
   -Continue Vanc/meropenem course to be determined pending cx results.
   Infectious Disease consulted will discuss alternative [**Doctor Last Name **] based on
   new rash
   2)LFT
s- stable, Hep serologies, HIV negative.
   3) Anemia: stable
   4)Bipolar disorder- Will restart psych meds hold ritalin
   5)Poly substance abuse-social work consult follow for signs of
   withdrawl
   6)FEN: continue diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2143-8-13**] 05:28 AM
   Multi Lumen - [**2143-8-14**] 05:40 PM  Will d
c pending transfer to floor.
   Prophylaxis:
   DVT: SC heprin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Floor.
   Total time spent: